US09340547B2
a) (2S,4R)-tert-Butyl 4-(benzyloxy)-2-(3-bromo-2-(3,5-difluorophenylcarbamoyl)-1 H-pyrrol-1-ylcarbamoyl)pyrrolidine-1-carboxylate
1-Amino-3-bromo-N-(3,5-difluorophenyl)-1H-pyrrole-2-carboxamide (1.5 g, 4.75 mmol), (2S,4R)-4-(benzyloxy)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid (0.99 g, 3.08 mmol) and diisopropylethylamine (2.8 ml, 16.08 mmol) were dissolved in dimethylformamide (30 ml) and the mixture cooled at 0° C. To this mixture, T3P (50% solution in ethyl acetate, 2.1 ml, 7.19 mmol) dissolved in DMF (5 ml) was dropwise added. Once the addition is over, the mixture was stirred at room temperature for 48 h. To this mixture, water was added and extracted twice with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulphate, filtered and the solvents evaporated under reduced pressure. The residue was purified by flash chromatography (0% to 25% hexanes/AcOEt) to yield 1.42 g (74% yield) of the title compound.

reactant | 1-Amino-3-bromo-N-(3,5-difluorophenyl)-1H-pyrrole-2-carboxamide | 4.75 mmol, 1.5 g | NN1C(=C(C=C1)Br)C(=O)NC1=CC(=CC(=C1)F)F | C11H8BrF2N3O
reactant | (2S,4R)-4-(benzyloxy)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 3.08 mmol, 0.99 g | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H23NO5
reactant | diisopropylethylamine | 16.08 mmol, 2.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | T3P | 7.19 mmol, 2.1 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2S,4R)-tert-Butyl 4-(benzyloxy)-2-(3-bromo-2-(3,5-difluorophenylcarbamoyl)-1 H-pyrrol-1-ylcarbamoyl)pyrrolidine-1-carboxylate | 1.42 g, 74% yield | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(NN1C(=C(C=C1)Br)C(NC1=CC(=CC(=C1)F)F)=O)=O | C28H29BrF2N4O5
